US06849638B2
Preparation of 3,5,6,7-Tetrahydro-4H-cyclopenta[4,5]thieno[2,3-d]pyrimidin-4-one
A suspension of 11.37 g ethyl 2-amino-5,6-dihydro-4H-cyclopenta[b]thiophene-3-carboxylate in 40 mL formamide was heated for 4 h to 190° C. using a heating mantle, then cooled and poured into 400 mL water. The mixture was then filtered to remove the solid product. The solids were washed successively with 30 mL EtOAc and 200 mL diethyl ether, air dried overnight, then vacuum oven dried for 3 h. The material was used in the subsequent reactions without further purification.

reactant | ethyl 2-amino-5,6-dihydro-4H-cyclopenta[b]thiophene-3-carboxylate | 11.37 g | NC1=C(C2=C(S1)CCC2)C(=O)OCC | C10H13NO2S
reactant | water | 400 mL | O | H2O
reactant | formamide | 40 mL | C(=O)N | CH3NO
product | 3,5,6,7-Tetrahydro-4H-cyclopenta[4,5]thieno[2,3-d]pyrimidin-4-one | N1=CNC(C2=C1SC1=C2CCC1)=O | C9H8N2OS
